US07307090B2
b) 1,1-Dimethylethyl 4-(3,4-dichlorophenoxy)-4′-methyl-[1,4′-bipiperidine]-1′-carboxylate
1,1-Dimethylethyl 4′-cyano-4-(3,4-dichlorophenoxy)-[1,4′-bipiperidine]-1′-carboxylate (100 mg) was dissolved in THF (6 ml). Methyl magnesium bromide (3M in ether, 220 μl) was added and the mixture was stirred at RT for 2 h. Further methyl magnesium bromide (220 μl) was added and the solution was stirred for a further 60 h. Potassium carbonate solution (saturated aqueous) was added and the mixture was extracted with DCM. The organic phase was dried, filtered and evaporated to give the subtitle compound (100 mg; MS [M+H]+ (APCI+) 443/445).

reactant | 1,1-Dimethylethyl 4′-cyano-4-(3,4-dichlorophenoxy)-[1,4′-bipiperidine]-1′-carboxylate | 100 mg | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl | C22H29Cl2N3O3
reactant | Methyl magnesium bromide | 3M, 220 μl | C[Mg]Br
reactant | methyl magnesium bromide | 220 μl | C[Mg]Br
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl 4-(3,4-dichlorophenoxy)-4′-methyl-[1,4′-bipiperidine]-1′-carboxylate | 100 mg | ClC=1C=C(OC2CCN(CC2)C2(CCN(CC2)C(=O)OC(C)(C)C)C)C=CC1Cl | C22H32Cl2N2O3
